US06515011B2
1-((2R)-2-Cyclohexyl-2-hydroxyethanoyl)-N-(2-(1-amino-2,2-difluoroethyl)-5-chlorobenzyl)-L-prolinamide
A solution of CAN (0.0647 g, 0.12 mmol) in water (0.4 mL) was added to a stirred solution of N-(5-chloro-2-{2,2-difluoro-1-[(4-methoxyphenyl)amino]ethyl}benzyl)-1-[(2R)-2-cyclohexyl-2-hydroxyethanoyl]-L-prolinamide (0.0332 g, 0.06 mmol) in CH3CN (1.5 mL) at 0° C. and the solution was warmed to ambient temperature. After 4 h the solution was partitioned between EtOAc and 10% aqueous NH4OH. The resulting two phase suspension was filtered and the EtOAc layer was washed with 10% sodium sulfite solution and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by column chromatography on silica (eluting with 1-10% of 10% ammonium hydroxide in methanol/chloroform gradient) to give the title compound as a gum: LC-MS m/z=458.4.

reactant | CAN | 0.12 mmol, 0.0647 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | N-(5-chloro-2-{2,2-difluoro-1-[(4-methoxyphenyl)amino]ethyl}benzyl)-1-[(2R)-2-cyclohexyl-2-hydroxyethanoyl]-L-prolinamide | 0.06 mmol, 0.0332 g | ClC=1C=CC(=C(CNC([C@H]2N(CCC2)C([C@H](O)C2CCCCC2)=O)=O)C1)C(C(F)F)NC1=CC=C(C=C1)OC | C29H36ClF2N3O4
solvent | water | 0.4 mL | O | H2O
solvent | CH3CN | 1.5 mL | CC#N | C2H3N
product | 1-((2R)-2-Cyclohexyl-2-hydroxyethanoyl)-N-(2-(1-amino-2,2-difluoroethyl)-5-chlorobenzyl)-L-prolinamide | C1(CCCCC1)[C@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C(C(F)F)N)CCC1)O | C22H30ClF2N3O3
